US06423869B1
diphenylmethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionate hydrochloride
To a solution of diphenylmethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionate (246 mg) in methanol (1 ml) was added 1N hydrochloric acid (0.396 ml) at room temperature. Concentration gave a residue, which was recrystallized from methanol-diethylether to afford the title compound (180 mg).

reactant | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionate | 246 mg | O[C@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](CO)NC([C@@H](N)CC(C)C)=O)O)O | C34H43N3O8
reactant | hydrochloric acid | 1N, 0.396 ml | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionate hydrochloride | 180 mg | Cl.O[C@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](CO)NC([C@@H](N)CC(C)C)=O)O)O | InChI=1S/C34H43N3O8.ClH/c1-21(2)18-25(35)33(43)37-27(20-38)29(40)30(41)31(42)34(44)36-26(22-12-6-3-7-13-22)19-28(39)45-32(23-14-8-4-9-15-23)24-16-10-5-11-17-24;/h3-17,21,25-27,29-32,38,40-42H,18-20,35H2,1-2H3,(H,36,44)(H,37,43);1H/t25-,26-,27-,29+,30+,31-;/m0./s1
